US08114991B2
Concentrated hydrochloric acid (8 ml) was added to a solution of N-[(1R,2S)-2-methyl-1-indanyl]-2-methoxyacetamide (5.9 g, 0.0269 mol) in ethanol and water, and the mixture heated for 12 hours at reflux. The solvent was evaporated and a small amount of ethyl acetate added. The undissolved solid was filtered off to give (1R,2S)-1-amino-2-methylindane hydrochloride (1.0 g) as a solid, chemical purity>95%.

reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | N-[(1R,2S)-2-methyl-1-indanyl]-2-methoxyacetamide | 0.0269 mol, 5.9 g | C[C@@H]1[C@H](C2=CC=CC=C2C1)NC(COC)=O | C13H17NO2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | (1R,2S)-1-amino-2-methylindane hydrochloride | 1.0 g | Cl.N[C@@H]1[C@H](CC2=CC=CC=C12)C | InChI=1S/C10H13N.ClH/c1-7-6-8-4-2-3-5-9(8)10(7)11;/h2-5,7,10H,6,11H2,1H3;1H/t7-,10+;/m0./s1
